US04788199
The procedure is as in Example 7, starting with 2-(4-nitrophenyl)-4-quinazolinepropanoic acid (1.35 g), carbonyldiimidazole (0.82 g) and diethylamine (0.9 cc) in anhydrous tetrahydrofuran (20 cc). After chromatography on silica gel with ethyl acetate as eluant, and recrystallization in ethyl acetate, N,N-diethyl-2-(4-nitrophenyl)-4-quinazolinepropanamide (0.35 g), m.p. 168° C., is obtained.

reactant | 2-(4-nitrophenyl)-4-quinazolinepropanoic acid | 1.35 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)O | C17H13N3O4
reactant | carbonyldiimidazole | 0.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethylamine | 0.9 cc | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | N,N-diethyl-2-(4-nitrophenyl)-4-quinazolinepropanamide | 0.35 g | C(C)N(C(CCC1=NC(=NC2=CC=CC=C12)C1=CC=C(C=C1)[N+](=O)[O-])=O)CC | C21H22N4O3
